US09399651B2
A mixture of 5-(benzyloxy)-1-(biphenyl-3-yl)-2-(methylamino)pyridin-4(1H)-one (1.3 Ig, 3.43 rnmol) 10% Pd/C (150 mg) in MeOH (200 mL) was stirred under an ¾ balloon for 2 h. After this time, LCMS indicated that the reaction was complete. The catalyst was filtered and washed with MeOH (4×50). The combined MeOH solution was concentrated to give 1-(biphenyl-3-yl)-5-hydroxy-2-(methylamino)pyridin-4(1H)-one as slightly yellow solid. ′H NMR (500 MHz, DMSO): δ 7.84-7.81 (m, 1H); 7.78-7.74 (mf 2H); 7.70-7.62 (m, 2H); 7.52-7.46 (m, 2H); 7.42-7.36 (m, 2H); 6.93 (s, 1H); 5.42-5.32 (m, 2H); 2.58 (d, J=4.7 Hz, 3H). LC/MS (M+H), 293. HRMS Calculated for (Ci8H,6N2O2+H)+ 293.1285. found 293.1285.

reactant | 5-(benzyloxy)-1-(biphenyl-3-yl)-2-(methylamino)pyridin-4(1H)-one | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C=1C=C(C=CC1)C1=CC=CC=C1)NC)=O | C25H22N2O2
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 1-(biphenyl-3-yl)-5-hydroxy-2-(methylamino)pyridin-4(1H)-one | C1(=CC(=CC=C1)N1C(=CC(C(=C1)O)=O)NC)C1=CC=CC=C1 | C18H16N2O2
